US06245804B1
760 mg of 5-acetamido-phthalide in 20 ml of dimethylformamide is mixed at 0° C. with 144 mg of sodium hydride (80% in mineral oil), and, after 20 minutes, with 800 mg of 4-toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)-ester. After 16 hours at 60° C., the solvent is concentrated by evaporation in a vacuum, the residue is dissolved in ethyl acetate, washed with water, dried (Na2SO4) and concentrated by evaporation. After chromatography on silica gel with cyclohexane/ethyl acetate (2:1), 266 mg of 5-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentylamino)-phthalide, melting point 110° C., is obtained.

reactant | 5-acetamido-phthalide | 760 mg | C(C)(=O)NC=1C=C2COC(=O)C2=CC1 | C10H9NO3
reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | 4-toluenesulfonic acid-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentyl)-ester | 800 mg | OC(COS(=O)(=O)C1=CC=C(C=C1)C)(CC(C)C1=CC=CC=C1)C(F)(F)F | C19H21F3O4S
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-(2-hydroxy-4-phenyl-2-trifluoromethyl-pentylamino)-phthalide | 266 mg | OC(CNC=1C=C2COC(=O)C2=CC1)(CC(C)C1=CC=CC=C1)C(F)(F)F | C20H20F3NO3
